* eeschema netlist version 1.1 (spice format) creation date: monday 13 may 2013 01:19:49 pm ist

v2  0 4 5
* Plotting option vplot8_1
r1  2 0 10000
r3  5 4 10000
V_u4 3 5 0
v1  7 0 5
V_u3 8 6 0
r2  7 8 1000
q1 6 2 3 pnp

.dc  v1 0e-00 5e-00 5e-03

* Control Statements 
.control
run
plot v(2) v(6) v(3) 
plot i(V_u4)
plot i(V_u3)
.endc
.end
